US06872833B2
A suspension of 100 mg (0.24 mmol) (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide, 155 mg (0.48 mmol) cesium carbonate and 0.42 ml (4.76 mmol) morpholine was ultrasonicated at room temperature for 10 min. The reaction mixture was then concentrated in vacuo. Flash chromatography (1/1 acetone/hexane) followed by trituration in ether and hexane afforded 70 mg (62%) (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-morpholin-4-ylmethyl-isonicotinamide as an off-white solid. [α]D20=+89.2° (c=0.49, CHCl3), ES-MS m/e (%): 471 (M+H+, 100).

reactant | (+)-2-chloromethyl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.24 mmol, 100 mg | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C19H18ClN3O4S
reactant | cesium carbonate | 0.48 mmol, 155 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | morpholine | 4.76 mmol, 0.42 ml | N1CCOCC1 | C4H9NO
product | (+)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-morpholin-4-ylmethyl-isonicotinamide | 70 mg, 62% | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)CN2CCOCC2)=O)OC | C23H26N4O5S
